US06124504
At 0 to 5° C., a solution of 7.6 g (0.11 mol) of NaNO2 in 12 ml of H2O is added dropwise to 50 ml of aqueous HCl (15%) and 18.1 g (0.105 mol) of sulphanilic acid in a 100 ml two-neck flask fitted with internal thermometer and magnetic stirrer. After 1 hour, this diazonium salt suspension is added at 5 to 10° C. to a solution of 16.3 g (0.1 mol) of 2,3-dichlorophenol and 20 g (0.5 mol) of NaOH in 200 ml of H2O. The mixture is allowed to warm to room temperature, stirred for a further 4 hours and neutralized with aqueous HCl, and the precipitated solid is filtered off with suction using a suction filter. Recrystallization from 200 ml of toluene and 20 ml of methanol affords 26.3 g (83.5% of theory) of pure (2,3-dichloro-4-hydroxyphenyl)-4-sulphonylphenyldiazene.

reactant | NaNO2 | 0.11 mol, 7.6 g | N(=O)[O-].[Na+]
reactant | HCl | 50 ml | Cl | ClH
reactant | sulphanilic acid | 0.105 mol, 18.1 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | 2,3-dichlorophenol | 0.1 mol, 16.3 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | NaOH | 0.5 mol, 20 g | [OH-].[Na+]
solvent | H2O | 12 ml | O | H2O
solvent | H2O | 200 ml | O | H2O
product | (2,3-dichloro-4-hydroxyphenyl)-4-sulphonylphenyldiazene | 26.3 g, 83.5% | ClC1=C(C=CC(=C1Cl)O)N=NC1=CCC(C=C1)=S(=O)=O | C12H8Cl2N2O3S
